US07666888B2
4-{[3-(4-Chlorophenyl)pyrrolidin-1-yl]carbonyl}-5-[4-(trifluoromethyl)phenyl]isoxazole
The title compound was prepared from 5-(4-trifluoromethylphenyl)isoxazole-4-carboxylic acid (12.9 mg, 0.050 mmol) and 3-(4-chlorophenyl)pyrrolidine oxalate (16.3 mg, 0.060 mmol) as described in synthetic method C and thereafter purified by preparative HPLC method B to give a solid (5.4 mg). Calcd for C21H16ClF3N2O2: 420.0852, found 420.0855.

reactant | 5-(4-trifluoromethylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 12.9 mg | FC(C1=CC=C(C=C1)C1=C(C=NO1)C(=O)O)(F)F | C11H6F3NO3
reactant | 3-(4-chlorophenyl)pyrrolidine oxalate | 0.060 mmol, 16.3 mg | C(C(=O)O)(=O)O.ClC1=CC=C(C=C1)C1CNCC1
product | 4-{[3-(4-Chlorophenyl)pyrrolidin-1-yl]carbonyl}-5-[4-(trifluoromethyl)phenyl]isoxazole | ClC1=CC=C(C=C1)C1CN(CC1)C(=O)C=1C=NOC1C1=CC=C(C=C1)C(F)(F)F | C21H16ClF3N2O2
